US07709468B2
Preparation #9: {2-[2-(4-Fluorophenyl)-imidazo[1,2-a]pyrazin-8-yl]-ethyl}-carbamic acid tert-butyl ester
2-(4-Fluorophenyl)-8-vinylimidazo[1,2-a]pyrazine (Preparation #8, 1.8 g, 7.5 mmol) was dissolved in a mixture of dioxane (75 mL) and concentrated ammonium hydroxide (75 mL) and heated at about 90° C. for about 16 h. The solution was concentrated and extracted with EtOAc. The EtOAc layer was washed with brine, dried over sodium sulfate, filtered, and evaporated. The residue was dissolved in EtOH (10 mL) and di-tert-butyl dicarbonate (1.7 g, 7.8 mmol). The reaction was stirred for about 2 h. The reaction was concentrated and the residue was purified by FCC (50%-100% EtOAc/heptane) to provide the title compound as a tan solid (0.788 g, 29%): LC/MS (Table 1, Method b) Rt=2.52 min; MS m/z: 357.0 (M+H)+.

reactant | 2-(4-Fluorophenyl)-8-vinylimidazo[1,2-a]pyrazine | 7.5 mmol, 1.8 g | FC1=CC=C(C=C1)C=1N=C2N(C=CN=C2C=C)C1 | C14H10FN3
reactant | di-tert-butyl dicarbonate | 7.8 mmol, 1.7 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ammonium hydroxide | 75 mL | [OH-].[NH4+]
solvent | dioxane | 75 mL | O1CCOCC1 | C4H8O2
product | {2-[2-(4-Fluorophenyl)-imidazo[1,2-a]pyrazin-8-yl]-ethyl}-carbamic acid tert-butyl ester | 0.788 g, 29% | C(C)(C)(C)OC(NCCC=1C=2N(C=CN1)C=C(N2)C2=CC=C(C=C2)F)=O | C19H21FN4O2
